US04217357
3-(Imidazol-1-ylmethyl)-2-isopropylindole (250 mg.) was dissolved in the minimum amount of ethanol (1.5 ml.) necessary to effect said solution with the aid of gentle warming. The latter alcoholic solution was then added dropwise to ethereal hydrogen chloride (15 ml.) to give a clear solution, which was thereafter allowed to stand for 10 minutes so as to permit precipitation of the desired hydrogen chloride acid addition salt to occur. The latter salt was recovered by means of suction filtration and recrystallized from ethyl acetate containing a trace of methanol to afford pure 3-(imidazol-1-ylmethyl)-2-isopropylindole hydrochloride. The yield of pure product (salt) melting at 187°-188° C. amounted to 230 mg. after first having been air dried to constant weight at 100° C. for a period of four hours.

reactant | 3-(Imidazol-1-ylmethyl)-2-isopropylindole | 250 mg | N1(C=NC=C1)CC1=C(NC2=CC=CC=C12)C(C)C | C15H17N3
reactant | hydrogen chloride | 15 ml | Cl | ClH
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
product | 3-(imidazol-1-ylmethyl)-2-isopropylindole hydrochloride | Cl.N1(C=NC=C1)CC1=C(NC2=CC=CC=C12)C(C)C | InChI=1S/C15H17N3.ClH/c1-11(2)15-13(9-18-8-7-16-10-18)12-5-3-4-6-14(12)17-15;/h3-8,10-11,17H,9H2,1-2H3;1H
